US08133886B2
Step 1.1: 1-(4-Benzyloxy-2-hydroxy-phenyl)-3-(4-chloro-3-trifluoromethyl-phenyl)-urea
To a solution of 1.00 g (4.6 mMol) 2-amino-5-benzyloxy-phenol [preparation see: WO 03/045925; page 146] in 15 ml THF, a solution of 1.1 g (5.0 mMol) 4-chloro-3-trifluoromethyl-phenylisocyanate in 15 ml THF is added dropwise. After 75 min at rt, the reaction mixture is diluted in water and EtOAc, the aq. phase separated off and extracted twice with EtOAc. The organic layers are washed with water and brine, dried (Na2SO4) and concentrated. Trituration from hexane gives the crystalline title compound: m.p.: 182-184° C.; HPLC: tRet=17.5.

reactant | 2-amino-5-benzyloxy-phenol | 4.6 mMol, 1.00 g | NC1=C(C=C(C=C1)OCC1=CC=CC=C1)O | C13H13NO2
reactant | 4-chloro-3-trifluoromethyl-phenylisocyanate | 5.0 mMol, 1.1 g | ClC1=C(C=C(C=C1)N=C=O)C(F)(F)F | C8H3ClF3NO
solvent | THF | 15 ml | C1CCOC1 | C4H8O
solvent | THF | 15 ml | C1CCOC1 | C4H8O
solvent | water | O | H2O
product | 1-(4-Benzyloxy-2-hydroxy-phenyl)-3-(4-chloro-3-trifluoromethyl-phenyl)-urea | C(C1=CC=CC=C1)OC1=CC(=C(C=C1)NC(=O)NC1=CC(=C(C=C1)Cl)C(F)(F)F)O | C21H16ClF3N2O3
